US05869519
N-(1,3-Dimethylindole-2-Carbonyl)Valine
DMAP (367 mg, 3.0 mmol) and EDAC (748 mg, 3.9 mmol) were added as solids to a solution of 1,3-dimethylindole-2-carboxylic acid (568 mg, 3.3 mmol) in DMF (5 mL), and the resultant mixture was stirred for 10 minutes under a nitrogen atmosphere at 0° C. A methylene chloride solution of the methyl ester of valine (553 mg, 3.3 mmol, in 5 mL of methylene chloride) was added to the mixture, and the mixture was first stirred for one hour at 0° C. then for 5 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and 5% KHSO4 solution and the aqueous solution was back-extracted with ethyl acetate. The combined ethyl acetate washes were in turn washed with 5% KHSO4 solution saturated sodium bicarbonate solution (2×) and brine, dried over sodium sulfate, and concentrated to give the title product as a yellow syrup (900 mg).

reactant | EDAC | 3.9 mmol, 748 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1,3-dimethylindole-2-carboxylic acid | 3.3 mmol, 568 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)O | C11H11NO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | valine | 3.3 mmol, 5 mL, 553 mg | N[C@@H](C(C)C)C(=O)O | C5H11NO2
catalyst | DMAP | 3.0 mmol, 367 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(1,3-Dimethylindole-2-Carbonyl)Valine | 900 mg | CN1C(=C(C2=CC=CC=C12)C)C(=O)N[C@@H](C(C)C)C(=O)O | C16H20N2O3
